US06924278B2
Acetic acid (5.4 ml) was added to a solution of 2-amino-2-methyl-1-propanol (8.4 g) and benzaldehyde (10 g) in 1,2-dichloroethane (140 ml) under ice-cooling. After 30 minutes of stirring at the same temperature, sodium triacetoxyborohydride (26 g) was added by small portions to the solution over 10 minutes. After 2 hours of stirring at room temperature, the mixture was poured into a solution of sodium hydrogen carbonate (48 g) in water (300 ml). The aqueous layer was separated and adjusted to pH 12 with 24% sodium hydroxide aqueous solution. The alkaline solution was extracted with ethyl acetate (2 times). The extract was dried over sodium sulfate and evaporated under reduced pressure to give colorless crystals of 2-benzylamino-2-methyl-1-propanol (13.2 g).

reactant | 2-amino-2-methyl-1-propanol | 8.4 g | NC(CO)(C)C | C4H11NO
reactant | benzaldehyde | 10 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 48 g | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 140 ml | ClCCCl | C2H4Cl2
solvent | water | 300 ml | O | H2O
solvent | Acetic acid | 5.4 ml | C(C)(=O)O | C2H4O2
product | 2-benzylamino-2-methyl-1-propanol | 13.2 g | C(C1=CC=CC=C1)NC(CO)(C)C | C11H17NO
